US05672602
(S)-2-[N-(t-Butoxycarbonyl)-allylamino]-3-phenyl-propionic acid
Combine (S)-2-[N-(t-butoxycarbonyl)-allylamino-3-phenyl-propionic acid methyl ester (0.32 g, 1.0 mmol) and 1M sodium hydroxide (10 mL, 10 mmol) in ethanol (10 mL). Stir for 4 hours. Acidify the reaction mixture with 1M hydrochloric acid and extract with ethyl acetate. Separate the layers, dry the organic layer over MgSO4, filter, and evaporate in vacuo. Chromatograph on silica gel eluting with 3% methanol/dichloromethane to give the title compound: TLC Rf =0.40 (silica gel, 5% methanol/dichloromethane).

reactant | N-(t-butoxycarbonyl)-allylamino-3-phenyl-propionic acid methyl ester | 1.0 mmol, 0.32 g | COC(C(CC1=CC=CC=C1)N(C(=O)OC(C)(C)C)CC=C)=O | C18H25NO4
reactant | sodium hydroxide | 10 mmol, 1M, 10 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | (S)-2-[N-(t-Butoxycarbonyl)-allylamino]-3-phenyl-propionic acid | C(C)(C)(C)OC(=O)N([C@H](C(=O)O)CC1=CC=CC=C1)CC=C | C17H23NO4
